US09102688B2
N-Quinolin-8-yl-3-trifluoromethyl-benzenesulfonamide (Example Compound 44)
In the similar fashion using route 14 general procedure 27, 8-aminoquinoline (100 mg, 0.69 mmol), 3-trifluoromethylbenzenesulfonyl chloride (200 mg, 0.83 mmol) and DMAP (cat.) gave the title compound (244 mg, 100%) after purification by column chromatography with DCM as the eluent.

reactant | 8-aminoquinoline | 0.69 mmol, 100 mg | NC=1C=CC=C2C=CC=NC12 | C9H8N2
reactant | 3-trifluoromethylbenzenesulfonyl chloride | 0.83 mmol, 200 mg | FC(C=1C=C(C=CC1)S(=O)(=O)Cl)(F)F | C7H4ClF3O2S
catalyst | DMAP | CN(C)C=1C=CN=CC1 | C7H10N2
product | N-Quinolin-8-yl-3-trifluoromethyl-benzenesulfonamide | 244 mg, 100% | N1=CC=CC2=CC=CC(=C12)NS(=O)(=O)C1=CC(=CC=C1)C(F)(F)F | C16H11F3N2O2S
